US04260612
5.0 g. (0.016 mole) of 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester are dissolved in 50 ml. of ethanol. To the solution 3.5 ml. (0.032 mole) of N-methyl-aniline are added and the reaction mixture is boiled for 8-9 hours in a nitrogen gas atmosphere. 50 ml. or 5% by weight hydrochloric acid solution is then added to the solution and shaken out three times with 25 ml. of dichloromethane. The combined organic layers are dried above calcinated sodium sulfate and evaporated at reduced pressure. The residue is dark oil which crystallizes upon the addition of some methanol. 3.0 g. (55.2%) of 6-methyl-9-(N-methyl-anilino)-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester are obtained. Melting point: 175°-178° C.

reactant | 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester | 0.016 mole | C(C)OC(=O)C1=CN=C2N(C1=O)C(CCC2Br)C | C12H15BrN2O3
reactant | ethanol | C(C)O | C2H6O
reactant | N-methyl-aniline | 0.032 mole | CNC1=CC=CC=C1 | C7H9N
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-methyl-9-(N-methyl-anilino)-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester | 55.2% | C(C)OC(=O)C1=CN=C2N(C1=O)C(CCC2N(C2=CC=CC=C2)C)C | C19H23N3O3
